US06528525B1
(b) Ethyl 2-butyl-3-[4-(3-hydroxypropoxy)phenyl]propionate
In a similar manner to that described in Reference example 3(f), a reaction was carried out using ethyl 2-butyl-3-[4-[3-(tetrahydropyran-2-yloxy)propoxy]phenyl]propionate (4.42 g) and p-toluensulfonic acid monohydrate (2.57 g) and the reaction mixture was treated to afford the desired compound (3.02 g) as a colorless oil.

reactant | ethyl 2-butyl-3-[4-[3-(tetrahydropyran-2-yloxy)propoxy]phenyl]propionate | 4.42 g | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCCOC1OCCCC1 | C23H36O5
reactant | p-toluensulfonic acid monohydrate | 2.57 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl 2-butyl-3-[4-(3-hydroxypropoxy)phenyl]propionate | 3.02 g | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCCO | C18H28O4
